****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

* Nodes 1 and 2: AC input
* Nodes 3 and 4: +/- DC output

.SUBCKT G3SBA60 1 2 3 4
D1 1 3 LEGD
D2 2 3 LEGD
D3 4 1 LEGD
D4 4 2 LEGD
.MODEL LEGD D (
+   N=1.796
+  IS=1.22106E-008
+  RS=0.0138402
+  EG=1.11
+ XTI=3
+ CJO=1.07747E-010
+  VJ=0.21
+   M=0.304622
+  FC=0.5
+  TT=2.88539E-006
+  BV=600
+ IBV=0.0004
+  KF=0
+  AF=1 )
.ENDS
