****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

* Nodes 1 and 2: AC input
* Nodes 3 and 4: +/- DC output

.SUBCKT RMB4S 1 2 3 4
D1 1 3 LEGD
D2 2 3 LEGD
D3 4 1 LEGD
D4 4 2 LEGD
.MODEL LEGD D (
+   N=3.13486
+  IS=3.26666E-006
+  RS=0.0671315
+  EG=1.25942
+ XTI=3.09297
+ CJO=2.36026E-011
+  VJ=0.847059
+   M=0.325255
+  FC=0.5
+  TT=3.69946E-007
+  BV=400
+ IBV=0.051
+  KF=0
+  AF=1 )
.ENDS
