MBR(B)2035-45CT					
* comparison measured simulated data for static behavior					.include mbr2035_45a.mod
					.dc v1 0 1.1 .05
v1 1 0 dc 1					.probe
d1 1 0 mbr2035_45a					.temp 0 25 75

* measured data for t=25°C		* measured data for t=0°C		* measured data for t=75°C	
g25C 10 0 table {v(1)} =		g0C 20 0 table {v(1)} =		g75C 30 0 table {v(1)} =	
+ .31505 100MA 		+ .3535 100MA 		+ .2446 100MA 	
+ .33535 200MA		+ .372 200MA		+ .26755 200MA	
+ .36435 500MA		+ .3986 500MA		+ .29735 500MA	
+ .3903  1.0A		+ .42225  1.0A		+ .32795  1.0A	
+ .4235 2.0A		+ .4518 2.0A		+ .3658 2.0A	
+ .48845 5.0A		+ .5103 5.0A		+ .4453 5.0A	
+ .5715 10.0A		+ .5855 10.0A		+ .5485 10.0A	
+ .7215  20.0A		+ .721  20.0A		+ .705  20.0A	
+ 1.012 50.0A		+ 1.0355 50.0A		+ 0.94 50.0A	
r_g25C 10 0 1		r_g0C 20 0 1		r_g75C 30 0 1	

.end					
.model mbr2035_45a D
+ Is=2.154u 
+ N=1.116 
+ Rs=8.935m 
+ Ikf=2.273 
+ Xti=3.9 
+ Eg=0.69					
+ Cjo=1.226n 
+ M=.916 
+ Vj=4.375 
+ Fc=.5 
* Bv=reverse voltage see datasheet Bv=35 or 45
+ Ibv=20u					
+ Tt=22.2n)					


