****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT MBR4045PT 1 2 3
.MODEL DIO D(
+   N=1.14842
+  IS=8.11831E-006
+  RS=0.00848623
+  EG=0.637858
+ XTI=2.08364
+ CJO=2.90353E-009
+  VJ=0.502988
+   M=0.446262
+  FC=0.5
+  TT=1.4427E-009
+  BV=45
+ IBV=0.001
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=1.99794
+  IS=1.00014E-012
+  RS=0.01
+  EG=1.11084
+ XTI=3.00018 )

DD1 1 2 DIO
DG1 1 2 GR
DD2 3 2 DIO
DG2 3 2 GR
.ENDS
