****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT MBR4060PT 1 2 3
.MODEL DIO D(
+   N=1.40529
+  IS=1.7648E-005
+  RS=0.0101444
+  EG=0.689197
+ XTI=2.0719
+ CJO=1.73602E-009
+  VJ=0.373164
+   M=0.402288
+  FC=0.5
+  TT=1.4427E-009
+  BV=60
+ IBV=0.001
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=1.99633
+  IS=1.00019E-012
+  RS=0.01
+  EG=1.11111
+ XTI=3.00025 )

DD1 1 2 DIO
DG1 1 2 GR
DD2 3 2 DIO
DG2 3 2 GR
.ENDS
