****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

* Diode 1: nodes 1 and 2
* Diode 2: nodes 3 and 2

.SUBCKT SBL4040PT 1 2 3
D1 1 2 LEGD
D2 3 2 LEGD
.MODEL LEGD D (
+   N=1.37716
+  IS=0.000104271
+  RS=0.00440842
+  EG=0.733534
+ XTI=2.0271
+ CJO=2.97377E-009
+  VJ=0.454391
+   M=0.443073
+  FC=0.5
+  TT=1.4427E-009
+  BV=40
+ IBV=0.5
+  KF=0
+  AF=1 )
.ENDS
