GF1					
* comparison measured simulated data for static behavior					.include gf1g.mod
					.dc v1 .1 1.45 .05
v1 1 0 dc 1					.probe
d1 1 0 gf1g					.temp 0 25 75

* measured data for t=25°C		* measured data for t=0°C		* measured data for t=75°C	
g25C 10 0 table {v(1)} =		g0C 20 0 table {v(1)} =		g75C 30 0 table {v(1)} =	
+ 678.35m 10MA		+ 723.45m 10MA		+ 584.2m 10MA
+ 709.8m  20MA 		+ 752.1m  20MA 		+ 621.05m  20MA 
+ 751.25m 50MA		+ 789.9m 50MA		+ 670m 50MA
+ 784.35m 100mA		+ 820.75m 100mA		+ 708.85m 100mA
+ 820.95m 200MA		+ 855.05m 200MA		+ 751m 200MA
+ 881.2m 500mA		+ 911.9m 500mA		+ 817.65m 500mA
+ 944.3m 1.0A		+ 972.3m 1.0A		+ 887.6m 1.0A
+ 1036.55m 2.0A		+ 1056.05m 2.0A		+ 987.15m 2.0A
+ 1244.1m 5.0A		+ 1262.35m 5.0A		+ 1209.75m 5.0A
+ 1527.5m  10.0A		+ 1538m  10.0A		+ 1513m  10.0A
r_g25C 10 0 1		r_g0C 20 0 1		r_g75C 30 0 1

.end				
.model gf1     
+ Is=5.715n 
+ N=1.813 
+ Rs=50.56m 
+ Ikf=7.16 
+ Xti=3 
+ Eg=1.11 
+ Cjo=19.57p				
+ M=.3282 
+ Vj=.3905 
+ Fc=.5 
+ Isr=100p 
+ Nr=2 
Bv=reverse voltage* 
+ Ibv=50n Tt=159.8n)				
* look databook (e.g. for GF1J = 600)			
