BYV26					
* comparison measured simulated data for static behavior					.include byv26.mod
					.dc v1 .1 2.5 .05
v1 1 0 dc 1					.probe
d1 1 0 byv26					.temp 0 25 75

* measured data for t=25°C		* measured data for t=0°C		* measured data for t=75°C
g25C 10 0 table {v(1)} =		g0C 20 0 table {v(1)} =		g75C 30 0 table {v(1)} =
+ 0.397 100u		+ 0.461 100u		+ 0.283 100u
+ 0.418 200u		+ 0.467 200u		+ 0.308 200u
+ 0.449 500u		+ 0.495 500u		+ 0.341 500u
+ 0.476 1m		+ 0.522 1m		+ 0.370 1m
+ 0.507 2m		+ 0.553 2m		+ 0.401 2m
+ 0.560 5m		+ 0.607 5m		+ 0.451 5m
+ 0.612 10MA 		+ 0.661 10MA 		+ 0.497 10MA 
+ 0.680 20MA		+ 0.732 20MA		+ 0.554 20MA
+ 0.797 50MA		+ 0.858 50MA		+ 0.652 50MA
+ 0.916 100mA		+ 0.985 100mA		+ 0.751 100mA
+ 1.067 200mA		+ 1.147 200mA		+ 0.878 200mA
+ 1.335 500mA		+ 1.429 500mA		+ 1.108 500mA
+ 1.609 1.0A		+ 1.722 1.0A		+ 1.356 1.0A
+ 1.965 2.0A		+ 2.090 2.0A		+ 1.672 2.0A		
+ 2.624 5.0A		+ 2.775 5.0A		+ 2.276 5.0A		
r_g25C 10 0 1		r_g0C 20 0 1		r_g75C 30 0 1		
 	 	 	 	 	 	 
.end						
.model byv26    
+ Is=437.1n 
+ N=2.406 
+ Rs=.3711 
+ Ikf=13.54m 
+ Xti=1.2 
+ Eg=1.11						
+ Cjo=38.36p 
+ M=.3906 
+ Vj=.3905 
+ Fc=.5 
+ Isr=10.04E-21 
+ Nr=4.506 
Bv=break down voltage*						
+ Ibv=100u Tt=128.2n)						
* D=800						
* E=1000						
