****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

* Diode 1: nodes 1 and 2
* Diode 2: nodes 3 and 2

.SUBCKT FEP16DT 1 2 3
D1 1 2 LEGD
D2 3 2 LEGD
.MODEL LEGD D (
+   N=2.19208
+  IS=4.77901E-006
+  RS=0.00507912
+  EG=1.05256
+ XTI=3.06339
+ CJO=1.89436E-010
+  VJ=0.595461
+   M=0.416973
+  FC=0.5
+  TT=8.63206E-008
+  BV=200
+ IBV=0.05
+  KF=0
+  AF=1 )
.ENDS
