****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

* Diode 1: nodes 1 and 2
* Diode 2: nodes 3 and 2

.SUBCKT UG30DPT 1 2 3
D1 1 2 LEGD
D2 3 2 LEGD
.MODEL LEGD D (
+   N=2.66765
+  IS=2.27318E-005
+  RS=0.00231942
+  EG=1.11
+ XTI=3
+ CJO=7.82605E-011
+  VJ=5.63531
+   M=0.0414631
+  FC=0.5
+  TT=4.93261E-008
+  BV=200
+ IBV=0.2
+  KF=0
+  AF=1 )
.ENDS
