****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

.SUBCKT SD101A 1 2
.MODEL SD D (
+   N=1.70463
+  IS=1.55043E-007
+  RS=31.5955
+  EG=0.69
+ XTI=2 
+ CJO=2E-012
+  VJ=0.314625
+   M=0.188302
+  FC=0.5
+  TT=1.4427E-009
+  BV=60
+ IBV=0.001
+  KF=0
+  AF=1 )
.MODEL PND D (
+   N=2.01276
+  IS=2.08639E-009
+  RS=0.577781
+  EG=1.11
+ XTI=3 )
D1 1 2 SD
D2 1 2 PND
.ENDS
