****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

.SUBCKT SD103A 1 2
.MODEL SD D (
+   N=1.08982
+  IS=1.94544E-007
+  RS=0.704401
+  EG=0.69
+ XTI=2 
+ CJO=5E-011
+  VJ=0.144129
+   M=0.431697
+  FC=0.5
+  TT=1.4427E-008
+  BV=40
+ IBV=0.001
+  KF=0
+  AF=1 )
.MODEL PND D (
+   N=4.55878
+  IS=0.000271362
+  RS=0.047093
+  EG=1.11
+ XTI=3 )
D1 1 2 SD
D2 1 2 PND
.ENDS
