****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

* Version: SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 2

.SUBCKT p6ka24 1 2
DF 1 9 DFMOD
.MODEL DFMOD D(N=0.846663 IS=1E-016 RS=0.28237 EG=1.11 XTI=3
+ CJO=850E-12 VJ=2.25 M=0.33 TT=1E-6)
* Leakage
RL 1 9 19.4E6 RLMOD
.MODEL RLMOD R(TC1=0.0072 TC2=0 TNOM=25)
* Breakdown
RBD 9 4 0.618
EBD 4 3 10 20 1
DBD 3 1 DBDMOD
.MODEL DBDMOD D(IS=1e-15 N=0.5)
IBVC 0 10 0.001
RBVC 10 0 24000 RBVCMOD
.MODEL RBVCMOD R(TC1=0.00094 TNOM=25)
DBVC 20 0 DBDMOD
IBVD 0 20 1
L1 9 2 1e-15
.ENDS
